US05945382
0.15 ml of 1,8-diazabicyclo(5.4.0)undecen-7-ene is added, at room temperature, to a solution of 2.55 g (0.01 mol) of 4-chloro-3-(3,5-dichlorophenyl)pyrazole and 0.90 g (0.030 mol) of paraformaldehyde in 70 ml of THF. The reaction mixture is stirred for 4 h at room temperature. A solution of 1.20 g (0.015 mol) of acetyl chloride in 10 ml of THF is run in dropwise at 0° C. and stirring is continued for 6 h at room temperature. The reaction mixture is concentrated to dryness. The residue is taken up in 15 ml of heptane and then dried. We obtain 3.05 g of 1-acetoxymethyl-4-chloro-3-(3,5-dichlorophenyl)pyrazole, melting at 95° C.

reactant | 1,8-diazabicyclo(5.4.0)undecen-7-ene | 0.15 ml | N12C=CCCCC2=NCCC1 | C9H14N2
reactant | 4-chloro-3-(3,5-dichlorophenyl)pyrazole | 0.01 mol, 2.55 g | ClC=1C(=NNC1)C1=CC(=CC(=C1)Cl)Cl | C9H5Cl3N2
reactant | paraformaldehyde | 0.030 mol, 0.90 g | C=O | CH2O
reactant | acetyl chloride | 0.015 mol, 1.20 g | C(C)(=O)Cl | C2H3ClO
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-acetoxymethyl-4-chloro-3-(3,5-dichlorophenyl)pyrazole | 3.05 g | C(C)(=O)OCN1N=C(C(=C1)Cl)C1=CC(=CC(=C1)Cl)Cl | C12H9Cl3N2O2
